US05783564
3α-Aminocholestane (2.00 g, 5.15 mmol) was dissolved in 98-100% formic acid (10 ml) and acetic anhydride (3.6 ml) was added under ice cooling. After the mixture was stirred for 18 hours at room temperature, the precipitated solid was filtered off and recrystallized from methanol to obtain N-formyl-3α-aminocholestane (1.14 g, yield=53%). The N-formyl-3α-aminocholestane was dissolved in tetrahydrofuran (50 ml) and lithium aluminum hydride (415 mg) was added. The mixture was heated under reflux for 1.5 hours. After the completion of the reaction, saturated aqueous solution of sodium sulfate was added to the mixture to decompose an excess of lithium aluminum hydride. Ether (100 ml) was added, and the mixture was stirred and allowed to stand. After the organic layer was collected by decantation, ether (50 ml) was added to the aqueous layer. After the mixture was stirred and allowed to stand, the ether layer was collected again. The organic layers were combined, washed with saturated saline solution, and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was dissolved in ethyl acetate (50 ml) and 4N hydrochloric acid-ethyl acetate (0.7 ml) was added. The resulting precipitate was filtered off. The precipitate was suspended in ether (500 ml) and 40% aqueous solution of potassium hydroxide (100 ml) was added. The suspension was vigorously stirred until the precipitate was dissolved. The ether layer was washed with saturated saline solution and dried over sodium sulfate. The solvent was evaporated under reduced pressure to obtain the title compound (1.04 g, yield=94%).

reactant | 3α-Aminocholestane | 5.15 mmol, 2.00 g | N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H49N
reactant | acetic anhydride | 3.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | N-formyl-3α-aminocholestane | 1.14 g, yield=53% | C(=O)N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C28H49NO
